US07217723B2
N-Cyclopropyl-2-(4-fluorophenyl)acetamide
To a solution of 4-fluorophenylacetic acid (4.5 g) and cyclopropylamine (1.7 g) in N,N-dimethylformamide (60 mL) was added 1-Hydroxybenzotriazole (4.4 g), followed by 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide (WSC) hydrochloride (6.2 g) on an ice bath. This solution was stirred for 4.5 hours while gradually warming to room temperature. The reaction solution was poured into water (120 mL) on an ice bath, and the resulting solid was collected by filtration, washed with water, then dried, and the title compound (4.19 g) was obtained as a colorless solid.

reactant | 4-fluorophenylacetic acid | 4.5 g | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | cyclopropylamine | 1.7 g | C1(CC1)N | C3H7N
reactant | 1-Hydroxybenzotriazole | 4.4 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide | 6.2 g | CN(CCCN=C=NCC)C | C8H17N3
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | water | 120 mL | O | H2O
product | N-Cyclopropyl-2-(4-fluorophenyl)acetamide | 4.19 g | C1(CC1)NC(CC1=CC=C(C=C1)F)=O | C11H12FNO
